US08895596B2
Step B 4-chloro-5-iodobenzene-1,2-diamine.
To a suspension of 5-chloro-4-iodo-2-nitroaniline (36.5 g, 122 mmol) in EtOH (800 mL) and water (150 mL) was added iron powder (38 g, 673 mmol) and NH4Cl (16 g, 306 mmol). The mixture was heated under nitrogen at 50° C. overnight. Additional iron powder (38 g, 673 mmol) and NH4Cl (16 g, 306 mmol) were added and heating was continued for 45 h. The reaction mixture was cooled, filtered and concentrated. The resulting residue was re-dissolved in ethyl acetate and washed with sodium bicarbonate solution. The organic phase was concentrated to afford the desired product as a gray solid, which was used in the next step without further purification.

reactant | 5-chloro-4-iodo-2-nitroaniline | 122 mmol, 36.5 g | ClC=1C(=CC(=C(N)C1)[N+](=O)[O-])I | C6H4ClIN2O2
reactant | NH4Cl | 306 mmol, 16 g | [NH4+].[Cl-]
reactant | NH4Cl | 306 mmol, 16 g | [NH4+].[Cl-]
solvent | EtOH | 800 mL | CCO | C2H6O
solvent | water | 150 mL | O | H2O
catalyst | iron | 673 mmol, 38 g | [Fe] | Fe
catalyst | iron | 673 mmol, 38 g | [Fe] | Fe
product | 4-chloro-5-iodobenzene-1,2-diamine | ClC=1C=C(C(=CC1I)N)N | C6H6ClIN2
